US07521451B2
To a solution of 5,6-dimethyl-3-ethoxycarbonylmethyl-2-(3-pyridyl)isoindolin-1-one [IUPAC name: ethyl 2-[5,6-dimethyl-3-oxo-2-(3-pyridinyl)-2,3-dihydro-1H-isoindol-1-yl]acetate] (8.4 g, 26 mmol) in methanol (250 ml) was added by portions sodium borohydride (11 g, 0.52 mmol), and the reaction mixture was stirred with heating at 80° C. for 3 hrs. To the reaction solution was added ice-cold water, and the precipitated crystals were collected by filtration, washed with water, and dried to give 6.0 g of 5,6-dimethyl-2-(3-pyridyl)-3-(2-hydroxyethyl)isoindolin-1-one.

reactant | 5,6-dimethyl-3-ethoxycarbonylmethyl-2-(3-pyridyl)isoindolin-1-one | 26 mmol, 8.4 g | CC=1C=C2C(N(C(C2=CC1C)=O)C=1C=NC=CC1)CC(=O)OCC | C19H20N2O3
reactant | sodium borohydride | 0.52 mmol, 11 g | [BH4-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
product | 5,6-dimethyl-2-(3-pyridyl)-3-(2-hydroxyethyl)isoindolin-1-one | 6.0 g | CC=1C=C2C(N(C(C2=CC1C)=O)C=1C=NC=CC1)CCO | C17H18N2O2
